US06143763
6-(3-Methylaminopropoxy)carbostyril (3 g) is dissolved in dimethylformamide (150 ml), and thereto are added N-methyl-N-cyclohexylaminocarbonyl chloride (2.3 g) and potassium carbonate (2 g). The mixture is stirred at room temperature overnight, and further heated with stirring at 80° C. for 2 hours. The reaction solution is poured into water, and extracted with ethyl acetate. The extract is concentrated under reduced pressure to remove the solvent, and the residue is purified by silica gel column chromatography (solvent; methylene chloride:methanol=30:1), and recrystallized from ethyl acetate to give 6-[3-(1,3-dimethyl-3-cyclohexylureido)propoxy]carbostyril (2.3 g) as a white powder.

reactant | 6-(3-Methylaminopropoxy)carbostyril | 3 g | CNCCCOC=1C=C2C=CC(NC2=CC1)=O | C13H16N2O2
reactant | N-methyl-N-cyclohexylaminocarbonyl chloride | 2.3 g | CN(C(=O)Cl)C1CCCCC1 | C8H14ClNO
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 6-[3-(1,3-dimethyl-3-cyclohexylureido)propoxy]carbostyril | 2.3 g | CN(C(=O)N(C1CCCCC1)C)CCCOC=1C=C2C=CC(NC2=CC1)=O | C21H29N3O3
